US09293712B2
N-([1,1′-biphenyl]-2-yl)-6-cyclohexyldibenzo[b,d]furan-4-amine (8.3 g. 20.0 mmol), 4-iodoanisole (18.7 g, 80.0 mmol), potassium carbonate (5.5 g, 40.0 mmol), copper powder (1.3 g, 20.0 mmol), and 18-crown-6 ether (5.3 g, 20.0 mmol) were mixed. The resultant mixture was bubbled with nitrogen for 30 min. The mixture was refluxed for 20 h. After cooling, the solvent was removed in vacuo and the residue was purified by flash chromatography using 15% DCM/hexane (containing 1% triethylamine) to yield N-([1,1′-biphenyl]-2-yl)-6-cyclohexyl-N-(4-methoxyphenyl)dibenzo[b,d]furan-4-amine (9.0 g, 86% yield) as a white solid.

reactant | N-([1,1′-biphenyl]-2-yl)-6-cyclohexyldibenzo[b,d]furan-4-amine | 20.0 mmol, 8.3 g | C1(=C(C=CC=C1)NC1=CC=CC2=C1OC1=C2C=CC=C1C1CCCCC1)C1=CC=CC=C1 | C30H27NO
reactant | 4-iodoanisole | 80.0 mmol, 18.7 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | potassium carbonate | 40.0 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 ether | 20.0 mmol, 5.3 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
catalyst | copper | 20.0 mmol, 1.3 g | [Cu] | Cu
product | N-([1,1′-biphenyl]-2-yl)-6-cyclohexyl-N-(4-methoxyphenyl)dibenzo[b,d]furan-4-amine | 9.0 g, 86% yield | C1(=C(C=CC=C1)N(C1=CC=CC2=C1OC1=C2C=CC=C1C1CCCCC1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C37H33NO2
